US07696193B2
1,1-Dimethylethyl 7-iodo-8-[(phenylmethyl)oxy]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (D44)
Sodium hydride (60% disp. in mineral oil, 576 mg, 14.4 mmol) was added to a stirred solution of 1,1-dimethylethyl 7-hydroxy-8-iodo-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate (D41) (4.67 g, 12 mmol) in dimethylformamide (30 ml). After 15 minutes, benzyl bromide (2.04 g, 1.4 ml, 12 mmol) was added and the mixture stirred for 2 hours. The mixture was diluted with water and ethyl acetate, the organic layer was separated, washed with water and brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluting with a mixture of ethyl acetate:hexanes (1:10) to afford the title product (D44).

reactant | Sodium hydride | 14.4 mmol, 576 mg | [H-].[Na+]
reactant | 1,1-dimethylethyl 7-hydroxy-8-iodo-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | 12 mmol, 4.67 g | OC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1I | C15H20INO3
reactant | benzyl bromide | 12 mmol, 1.4 ml, 2.04 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,1-Dimethylethyl 7-iodo-8-[(phenylmethyl)oxy]-1,2,4,5-tetrahydro-3H-3-benzazepine-3-carboxylate | IC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1OCC1=CC=CC=C1 | C22H26INO3
